US05210077
E-2-Methyl-4-phthalimidobut-2-enyl 2,3,4,6-tetra O-acetyl-β-D-glucopyranoside.
The general procedure of glucuronide formation of R. B. Conrow and S. Bernstein, 1971, supra, was followed. A mixture of 11 g (0.048 mol) of E-2-methyl-4-phthalimidobut-2-enol (mp 104°-105°, J. Corse and J. Kuhnle, Synthesis 618-619 (1972) and 17.2 g of CdCO3 (Johnson and Matthey, Seabrook, N. H.) in 1200 mL of toluene was dried by distilling about 200 mL of toluene from the flask (stirring). A solution of 39.7 g (0.1 mol) of 2,3,4,6-tetra-O-acetyl-α-glucopyranosyl bromide (acetobromoglucose) in 200 mL of dry toluene was added to the stirred, refluxing mixture over 1 h. The hot mixture was filtered through a Celite pad and the toluene was removed in vacuo from the filtrate. The resulting tan gum (46 g) contained the desired product, starting alcohol and its acetate. Purification was simplified by acetylating the entire mixture with 50 mL of acetic anhydride, 135 mL of pyridine and 1 g of 4-dimethylaminopyridine (steam bath, 1/2 h). The volatiles were removed in vacuo and the residue was dissolved in ethyl acetate and the solution washed with H2O, dilute HCl, KHCO3 solution and H2O. After drying and removal of the solvent, 29.8 g remained, which was divided into 4 portions and chromatographed on silica (J. T. Baker, flash chromatography grade, 40 μm, 50 cm×4 cm column, hexane:ethyl acetate (65:35); yield 14.36 g (53.3%); mp 118°-120°; 1H NMR identical to that reported by C. C. Duke et al., Australian Journal of Chemistry 31: 1291-1301 (1978).

reactant | E-2-methyl-4-phthalimidobut-2-enol | 0.048 mol, 11 g | C/C(/CO)=C\CN1C(C=2C(C1=O)=CC=CC2)=O | C13H13NO3
reactant | 2,3,4,6-tetra-O-acetyl-α-glucopyranosyl bromide | 0.1 mol, 39.7 g | C(C)(=O)O[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)Br | C14H19BrO9
solvent | toluene | 1200 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | E-2-Methyl-4-phthalimidobut-2-enyl 2,3,4,6-tetra O-acetyl-β-D-glucopyranoside | C(C)(=O)O[C@H]1[C@H](OC\C(=C\CN2C(C=3C(C2=O)=CC=CC3)=O)\C)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C27H31NO12
